US09359336B2
To the stirring mixture of 3-(5-aminobenzo[b]thiophen-2-yl)-5-isocyanopyridin-2-amine (1.064 g, 4 mmol, 1 eq) in anhydrous tetrahydrofuran (25 mL) under nitrogen atmosphere was added 4-chloro-3-(trifluoromethyl)phenyl isocyanate (904 mg, 1 eq) and the reaction mixture was stirred at room temperature for three hours. The reaction was then diluted with ethyl acetate, washed sequentially with aqueous ammonium chloride, saturated aqueous sodium bicarbonate, and brine, and dried with anhydrous sodium sulfate. The upper clear solution was decanted and concentrated under reduced pressure to lesser amount, to which was added a small amount of EtOAc-Hex (2:1). Upon a filtration, 1-(2-(2-amino-5-isocyanopyridin-3-yl)benzo[b]thiophen-5-yl)-3-(4-chloro-3-(trifluoromethyl)phenyl)urea was obtained as white solid in the amount of 1.37 g.

reactant | 3-(5-aminobenzo[b]thiophen-2-yl)-5-isocyanopyridin-2-amine | 4 mmol, 1.064 g, 1 eq | NC1=CC2=C(SC(=C2)C=2C(=NC=C(C2)[N+]#[C-])N)C=C1 | C14H10N4S
reactant | 4-chloro-3-(trifluoromethyl)phenyl isocyanate | 904 mg, 1 eq | ClC1=C(C=C(C=C1)N=C=O)C(F)(F)F | C8H3ClF3NO
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(2-(2-amino-5-isocyanopyridin-3-yl)benzo[b]thiophen-5-yl)-3-(4-chloro-3-(trifluoromethyl)phenyl)urea | NC1=NC=C(C=C1C1=CC2=C(S1)C=CC(=C2)NC(=O)NC2=CC(=C(C=C2)Cl)C(F)(F)F)[N+]#[C-] | C22H13ClF3N5OS
